*
* INA111 = A1_111 + A2_111 + A3_111 OP AMPS + PRECISION RESISTOR NETWORK
* CREATED ON 12/1/92 AT 10:00 HB
* REV.A
* REV.B  18 JUNE 97 NPA: MOVED LEGAL DISCLAIMER TO BEGINNING OF FILE
*
* jjt 21/6/2000: nested the Ax_111 subcircuit calls within the INA111 subcircuit.
*
***** INA111 SUB-CIRCUIT
* CONNECTIONS:          NON-INVERTING INPUT
*                       |   INVERTING INPUT
*                       |   |   POSITIVE POWER SUPPLY
*                       |   |   |   NEGATIVE POWER SUPPLY
*                       |   |   |   |   OUTPUT
*                       |   |   |   |   |   REFERENCE
*                       |   |   |   |   |   |   GAIN SENSE 1
*                       |   |   |   |   |   |   |   GAIN SENSE 2
*                       |   |   |   |   |   |   |   |
.SUBCKT INA111          1   2   3   4   5   8   9  10
*
***** A1_111 SUB-CIRCUIT
* CONNECTIONS:          NON-INVERTING INPUT
*                       |   INVERTING INPUT
*                       |   |   POSITIVE POWER SUPPLY
*                       |   |   |   NEGATIVE POWER SUPPLY
*                       |   |   |   |   OUTPUT
*                       |   |   |   |   |
X1                     15  17   3   4  11   A1_111
***** A2_111 SUB-CIRCUIT
* CONNECTIONS:          NON-INVERTING INPUT
*                       |   INVERTING INPUT
*                       |   |   POSITIVE POWER SUPPLY
*                       |   |   |   NEGATIVE POWER SUPPLY
*                       |   |   |   |   OUTPUT
*                       |   |   |   |   |
X2                     15  16   3   4  12   A2_111
*
***** A3_111 SUB-CIRCUIT
* CONNECTIONS:          NON-INVERTING INPUT
*                       |   INVERTING INPUT
*                       |   |   POSITIVE POWER SUPPLY
*                       |   |   |   NEGATIVE POWER SUPPLY
*                       |   |   |   |   OUTPUT
*                       |   |   |   |   |
X3                     14  13   3   4   5   A3_111
*
R1    11  13   10.0000E3
R3    12  14   10.0000E3
R2    13   5    9.9993E3
R4    14   8   10.0000E3
C2    13   5    6.0000E-12
C4    14   8    5.0000E-12
*
R1FB   9  11   25.0000E3
R2FB  10  12   25.0000E3
CC1   17  11   5.0000E-12
CC2   16  12   5.5000E-12
*
RCE   17   9   400E6
*
I1     3  16  DC  50.00E-6
I2     3  17  DC  50.00E-6
I3    10   4  DC  50.00E-6
I4     9   4  DC  50.00E-6
I5     3  21  DC 200.00E-6
I6     3  22  DC 200.00E-6
*
CG1    9   0  13.5000E-12
CG2   10   0  12.0000E-12
*
D1    17  15      DX
D2    16  15      DX
*
Q1    16  21  10  QX
Q2    17  22   9  QX
*
J1     4   1  21  JX
J2     4   2  22  JX
*
V1     3  15  DC  3.000
*
.MODEL DX D(IS=1.0E-24)
.MODEL QX NPN(IS=800.0E-18 BF=500)
.MODEL JX PJF(IS=10.00E-12 BETA=500.0E-6 VTO=-1)

* A1_111 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS RELEASE 4.03 ON 11/1/92 AT 10:00
*
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT A1_111   1 2 3 4 5
*
C1   11 12 1.443E-12
C2    6  7 5.000E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 2.653E3 -3E3 3E3 3E3 -3E3
GA    6  0 11 12 628.3E-6
GCM   0  6 10 99 6.283E-6
ISS   3 10 DC 250.0E-6
HLIM 90  0 VLIM 1E3
J1   11  2 10 JX
J2   12  1 10 JX
R2    6  9 100.0E3
RD1   4 11 1.592E3
RD2   4 12 1.592E3
RO1   8  5 60
RO2   7 99 60
RP    3  4 37.50E3
RSS  10 99 800.0E3
VB    9  0 DC 0
VC    3 53 DC 2
VE   54  4 DC 1
VLIM  7  8 DC 0
VLP  91  0 DC 60
VLN   0 92 DC 60
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=5.000E-12 BETA=789.5E-6 VTO=-1)
.ENDS A1_111
* A2_111 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS RELEASE 4.03 ON 11/1/92 AT 10:00
*
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT A2_111   1 2 3 4 5
*
C1   11 12 1.443E-12
C2    6  7 5.000E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 2.653E3 -3E3 3E3 3E3 -3E3
GA    6  0 11 12 628.3E-6
GCM   0  6 10 99 6.283E-6
ISS   3 10 DC 250.0E-6
HLIM 90  0 VLIM 1E3
J1   11  2 10 JX
J2   12  1 10 JX
R2    6  9 100.0E3
RD1   4 11 1.592E3
RD2   4 12 1.592E3
RO1   8  5 60
RO2   7 99 60
RP    3  4 37.50E3
RSS  10 99 800.0E3
VB    9  0 DC 0
VC    3 53 DC 2
VE   54  4 DC 1
VLIM  7  8 DC 0
VLP  91  0 DC 60
VLN   0 92 DC 60
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=5.000E-12 BETA=789.5E-6 VTO=-1)
.ENDS A2_111
* A3_111 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT

* CREATED USING PARTS RELEASE 4.03 ON 11/1/92 AT 10:00
*
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT A3_111   1 2 3 4 5
*
C1   11 12 7.151E-12
C2    6  7 12.00E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 27.96E6 -30E6 30E6 30E6 -30E6
GA    6  0 11 12 377.0E-6
GCM   0  6 10 99 1.889E-9
ISS   3 10 DC 240.0E-6
HLIM 90  0 VLIM 1E3
J1   11  2 10 JX
J2   12  1 10 JX
R2    6  9 100.0E3
RD1   4 11 2.653E3
RD2   4 12 2.653E3
RO1   8  5 30
RO2   7 99 30
RP    3  4 37.50E3
RSSS  10 99 833.3E3
VB    9  0 DC 0
VC    3 53 DC 2.300
VE   54  4 DC 2.300
VLIM  7  8 DC 0
VLP  91  0 DC 25
VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=5.000E-12 BETA=296.0E-6 VTO=-1)
.ENDS A3_111
.ENDS INA111